US08809363B2
(4-chloro-2-hydroxyphenyl)boronic acid
To a solution of (4-chloro-2-methoxyphenyl)boronic acid (1.0 g, 5.36 mmol) in dichloromethane (5 mL) at 0° C. was added boron tribromide (1 M in dichloromethane, 10 mL, 10 mmol). The reaction was stirred at 0° C. for 1 hour, then allowed to warm to room temperature and stirred as such for 18 hours. The reaction was quenched carefully with water. The resulting precipitate was collected by filtration, to give a white solid, 260 mg. The layers were separated and the organic layer was dried over Na2SO4 and concentrated in vacuo to give a white solid, 300 mg. The two batches of solid were combined to give the title compound as a white solid, 560 mg, in a 61% yield. This material was taken on to Preparation 18 without purification.

reactant | (4-chloro-2-methoxyphenyl)boronic acid | 5.36 mmol, 1.0 g | ClC1=CC(=C(C=C1)B(O)O)OC | C7H8BClO3
reactant | boron tribromide | 10 mmol, 1 M, 10 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (4-chloro-2-hydroxyphenyl)boronic acid | 61% yield | ClC1=CC(=C(C=C1)B(O)O)O | C6H6BClO3
